US06489522B2
A solution prepared by mixing 2.93 g (40.0 mmol) of diethylamine with 18.0 ml (180 mmol) of isoprene was introduced into a 100-ml pressure tube in a nitrogen atmosphere. Thereto was gradually added dropwise at 0° C. a solution (1.6 M solution) prepared by dissolving 0.064 g of n-butyllithium (1.0 mmol) in 0.63 ml of hexane. This mixture was stirred first at room temperature for 15 minutes and then at 90° C. for 2.5 hours. To the resultant reaction mixture was added 0.3 ml of water to deactivate the catalyst. After liquid separation, the organic layer was separated and distilled to recover the unreacted isoprene. Subsequently, the concentrate remaining after the isoprene recovery was distilled under reduced pressure to obtain 7.29 g (34.8 mmol; GC yield, 87.0%) of the target mixture comprising α-neryldiethylamine and neryldiethylamine. Boiling point, 83-85° C./400 Pa. Neryldiethylamine

reactant | diethylamine | 40.0 mmol, 2.93 g | C(C)NCC | C4H11N
reactant | isoprene | 180 mmol, 18.0 ml | C=CC(C)=C | C5H8
reactant | n-butyllithium | 1.0 mmol, 0.064 g | C(CCC)[Li]
reactant | water | 0.3 ml | O | H2O
reactant | hexane | 0.63 ml | CCCCCC | C6H14
product | neryldiethylamine | C(\C=C(\C)/CCC=C(C)C)N(CC)CC | C14H27N
